US09301951B2
Intermediate 1.1e: 1-(4-nitro-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-piperidine
Into a 50-mL 3-necked round-bottom flask purged and maintained with an inert atmosphere of nitrogen, was placed a solution of 1-(3-bromo-4-nitrophenyl)piperidine (8.00 g, 28.07 mmol, 1.00 equiv) in DMSO (25 mL), PdCl2(dppf) (620 mg, 0.85 mmol, 0.03 equiv), 4,4,5,5-tetramethyl-2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,3,2-dioxaborolane (10.74 g, 42.45 mmol, 1.50 equiv), and potassium acetate (7.09 g, 72.24 mmol, 2.57 equiv). The resulting solution was stirred overnight at 80° C. in an oil bath. The mixture was concentrated under vacuum. The resulting solution was diluted with 100 mL of water. The resulting solution was extracted with 2×200 mL of ethyl acetate and the organic layers combined. The resulting mixture was washed with 2×100 mL of water and 2×100 mL of brine. The mixture was dried over anhydrous sodium sulfate and concentrated under vacuum. The residue was applied onto a silica gel column and eluted with ethyl acetate/petroleum ether (1:50˜1:10). This resulted in 8.0 g (86%) of 1-(4-nitro-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)piperidine as a yellow solid. 1H-NMR (300 MHz, CDCl3, ppm): δ 8.047-8.077 (d, J=9.0 Hz, 1H), 6.770-6.829 (m, 2H), 3.453 (s, 4H), 1.586-1.702 (m, 6H), 1.499 (s, 12H). MS (ES, m/z): 333.15 [M+H]+.

reactant | 1-(3-bromo-4-nitrophenyl)piperidine | 28.07 mmol, 8.00 g, 1.00 equiv | BrC=1C=C(C=CC1[N+](=O)[O-])N1CCCCC1 | C11H13BrN2O2
reactant | 4,4,5,5-tetramethyl-2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,3,2-dioxaborolane | 42.45 mmol, 10.74 g, 1.50 equiv | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 72.24 mmol, 7.09 g, 2.57 equiv | C(C)(=O)[O-].[K+]
solvent | DMSO | 25 mL | CS(=O)C | C2H6OS
catalyst | PdCl2(dppf) | 0.85 mmol, 620 mg, 0.03 equiv | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 1-(4-nitro-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-piperidine | [N+](=O)([O-])C1=C(C=C(C=C1)N1CCCCC1)B1OC(C(O1)(C)C)(C)C | C17H25BN2O4
